US08309550B2
A solution of 1H-pyrrolo[2,3-c]pyridine (10 mmol) in DMF cooling on an ice bath was treated with NaH (143 mmol). After stirred at room temperature for thr iodopropane (26 mmol) was added dropwise. The mixture was allowed to react at room temperature for further 3 hrs. Upon cooling on an ice bath the mixture was quenched with 20 mL H2O, followed by extraction with diethyl ether (5×50 mL). The organic layers were combined, washed with brine, dried on MgSO4 and filtered. The solvent was evaporated and dried on a high vacuum to give 1-propyl-1H-pyrrolo[2,3-c]pyridine as orange oil. MS (ESI+) m/z 161.1063 (M+H)+.

reactant | 1H-pyrrolo[2,3-c]pyridine | 10 mmol | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | NaH | 143 mmol | [H-].[Na+]
reactant | iodopropane | 26 mmol | ICCC | C3H7I
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-propyl-1H-pyrrolo[2,3-c]pyridine | C(CC)N1C=CC=2C1=CN=CC2 | C10H12N2
